US06127541
3-Morpholinobenzonitrile
3-Fluorobenzonitrile (4.35 g, 36.0 mmol) was dissolved in acetonitrile (40 ml), and morpholine (110 ml, 1.25 mol) was added thereto followed by stirring at 110° C. for 3 days and nights. The reaction mixture was concentrated to give oily substances which were then purified by silica gel chromatography (eluent: chloroform) to give the title compound (1.80 g, 27%) as oily substances.

reactant | 3-Fluorobenzonitrile | 36.0 mmol, 4.35 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | morpholine | 1.25 mol, 110 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-Morpholinobenzonitrile | 1.80 g, 27% | O1CCN(CC1)C=1C=C(C#N)C=CC1 | C11H12N2O
